Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
transient right hemiparesis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a very pleasant ___ year old right handed man
with a history of HLD, inflammatory polyarthritis NOS, who
presents with right sided weakness. 

He reports that he woke up this morning around 6AM, and in
general felt weak and unwell all over, but also noticed right 
arm
and leg heaviness. He noticed the right leg weakness when he was
trying to step into the shower, when he had difficulty lifting
his leg above the threshold. He did not fall. With the right
hand, he described a sense of "heaviness" and somewhat pain
limited weakness when trying to turn a door knob with this right
hand, but no flaccid paralysis. No significant difficulty when
reaching for objects. He did not notice any numbness, but he did
note some tingling in parts of the right arm, which resolved. Of
note, several days ago, he noted some twitching of the right 
arm,
distally and in a small area near the right thumb, but not the
entire extremity. 

Currently, he feels back to his "normal" self, which is still
functionally debilitated due to the generalized sense of fatigue
and weakness. 

He denied headache. No visual changes. Of note, he was recently
resumed on prednisone to see if this would help his 
rheumatologic
symptoms, but did not, and plan was per outpatient rheumatology
to wean this off. He has also been started on empiric 
doxycycline
for ?lyme, though this has not been positive in the past. 

 
Past Medical History:
PMH:

Problems  (Last Verified ___ by ___, MD):
HYPERCHOLESTEROLEMIA                                            
NEPHROLITHIASIS                                                 
MELANOCYTIC NEVI OF TRUNK                                       
ACTINIC KERATOSIS                                               
PSORIASIS VULGARIS                                              
LICHEN PLANUS                                                   
DEEP VENOUS THROMBOPHLEBITIS (after a calf muscle tear?, was on 
6
months of Coumadin for this)                                   
INGUINODYNIA                                                    
left                                                            

 
Social History:
___
Family History:
no strokes age <___
 
Physical Exam:
PHYSICAL EXAMINATION: 
General: Awake, cooperative, NAD, looks somewhat tired
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

++++++++++++++++++++++++++++++++++++++++++

DISCHARGE EXAM

General: Awake, cooperative, NAD
HEENT:  MMM
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. There were no paraphasic errors. No dysarthria. 
Able to follow both midline and appendicular commands. There was 
no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2     3+     2
R   2     2      2     3+     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally.

-Gait: Walks without assistance. Normal gait. Can stand on toes 
and toe walk without difficulties. Romberg negative

 
Pertinent Results:
___ 04:42AM   GLUCOSE-104* UREA N-18 CREAT-1.1 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-26 ANION GAP-13
___ 04:42AM   ALT(SGPT)-15 AST(SGOT)-11 LD(LDH)-107 
CK(CPK)-32* ALK PHOS-67 TOT BILI-0.6
___ 04:42AM   CK-MB-<1 cTropnT-<0.01
___ 04:42AM   ALBUMIN-3.5
___ 04:42AM   WBC-9.7 RBC-4.64 HGB-13.2* HCT-41.7 MCV-90 
MCH-28.4 MCHC-31.7* RDW-13.4 RDWSD-43.9
___ 04:42AM   PLT COUNT-213
___ 04:42AM   ___ PTT-31.0 ___
___ 06:31PM   %HbA1c-5.9 eAG-123
___ 06:17PM   PTH-31
___ 06:12PM   ___ PTT-31.7 ___
___ 05:50PM URINE  HOURS-RANDOM
___ 05:50PM URINE  UHOLD-HOLD
___ 05:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:34PM   LACTATE-1.8
___ 03:20PM   GLUCOSE-103* UREA N-25* CREAT-1.3* SODIUM-138 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-25 ANION GAP-14
___ 03:20PM   ALT(SGPT)-15 AST(SGOT)-13 CK(CPK)-36* ALK 
PHOS-72 TOT BILI-0.8
___ 03:20PM   ALBUMIN-3.8 CALCIUM-9.9 PHOSPHATE-3.8 
MAGNESIUM-1.9 CHOLEST-219*
___ 03:20PM   TRIGLYCER-117 HDL CHOL-86 CHOL/HDL-2.5 
LDL(CALC)-110
___ 03:20PM   TSH-1.2
___ 03:20PM   25OH VitD-21*
___ 03:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 03:20PM   WBC-14.7* RBC-4.92 HGB-14.0 HCT-43.8 MCV-89 
MCH-28.5 MCHC-32.0 RDW-13.4 RDWSD-43.3
___ 03:20PM   NEUTS-87.7* LYMPHS-6.5* MONOS-5.1 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-12.92* AbsLymp-0.96* AbsMono-0.75 
AbsEos-0.01* AbsBaso-0.02
___ 03:20PM   PLT COUNT-___ is a ___ year old right handed man
with a history of HLD, inflammatory polyarthritis who
presented with transient right sided weakness, now resolved. 
Exam
is nonfocal. Risk factors include elevated LDL and chronic 
inflammatory state, which may predispose him to developing small 
vessel disease. His CTA and MRI were unremarkable. He did not 
have an acute stroke or TIA. He was noted here to have an HbA1c 
of 5.9 and LDL of 110 and a vitamin D level of 21. His symptoms 
are most likely explained by vitamin D deficiency in combination 
with his rheumatologic disorders. There is no need to start him 
on a statin from a primary stroke prevention point of view, but 
should be an ongoing discussion with his outpatient providers. 

Transitional Issues:
-treatment for Vitamin D deficiency
-ongoing evaluation of risk factors for stroke.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Doxycycline Hyclate 100 mg PO Q12H 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.  Doxycycline Hyclate 100 mg PO Q12H  
3.  PredniSONE 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vitamin D deficiency
Inflammatory polyarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for symptoms of right arm and 
leg weakness that were concerning for a stroke. We did a lot of 
imaging of your brain and the blood vessels supplying the brain 
which were all normal. You did NOT have a stroke. You did NOT 
have a TIA. We did find that you had low vitamin D levels and 
have started you on Vitamin D supplementation.

Thank you for involving us in your care.

___ Neurology
 
Followup Instructions:
___